US05750531
Step 3: 7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine
Sodium borohydride(4.4 g, 116 mmol) was added portionwise at room temperature to a mixture solution of 7-methyl-6,7-dihydrothieno[2,3-c]pyridine(10.5 g, 69.4 mmol) prepared in the above Step 2 and ethanol(100 ml). After stirring for 1 hour, the reaction mixture was diluted with water, and extracted with dichloromethane. The combined dichloromethane layers were dried over magnesium sulfate and concentrated to give 10.34 g of the titled compound. (Yield: 97%)

reactant | Sodium borohydride | 116 mmol, 4.4 g | [BH4-].[Na+]
reactant | 7-methyl-6,7-dihydrothieno[2,3-c]pyridine | 69.4 mmol, 10.5 g | CC1NC=CC2=C1SC=C2 | C8H9NS
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 10.34 g, Yield: 97% | CC1NCCC2=C1SC=C2 | C8H11NS
